US08053573B2
Synthesis of 3-amino-5,6-bis(4-methoxyphenyl)-1,2,4-triazine (JR77)
Aminoguanidine (2.450 g, 2.21 mmol) is added to a solution of 1,2-bis(4-methoxyphenyl)-ethane-1,2-dione prepared according to example 1 (5 g, 18.5 mmol) in ethanol (50 ml). The mixture is heated at reflux for 12 hours. After returning to ambient temperature, the precipitate obtained is filtered, washed with ethanol and is dried to yield a yellow solid. The residue is purified by chromatography on a silica gel (dichloromethane/triethylamine 0.5%) to yield 3.7 g (65%) of a yellow solid. δH (200 MHz, CDCl3), 3.88 (s; 6H), 5.51 (s; 2H), 6.92 (m; 4H), 7.41 (m; 4H).

reactant | Aminoguanidine | 2.21 mmol, 2.450 g | C(=NN)(N)N | CH6N4
reactant | 1,2-bis(4-methoxyphenyl)-ethane-1,2-dione | COC1=CC=C(C=C1)C(C(=O)C1=CC=C(C=C1)OC)=O | C16H14O4
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 3-amino-5,6-bis(4-methoxyphenyl)-1,2,4-triazine | 3.7 g, 65% | NC=1N=NC(=C(N1)C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC | C17H16N4O2
